US07169932B2
Methanesulfonic acid (155 mL; 2.39 mol) was added dropwise to the EtOAc solution of (4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidine-3-carboxylic acid tert-butyl ester in a 3-L flask. After stirring at room temperature overnight, the solution was cooled to 7° C. and H2O (400 mL) was poured in. The mixture was transferred to a 4-L separatory funnel [using H2O (30 mL) for rinsing] and the layers were separated. The organic fraction was extracted with H2O (190 mL). The combined H2O extracts were transferred to a 5-L flask and were cooled to 8° C. The pH was adjusted from 0.4 to 9.3 using 3 N NaOH (˜1.05 L). 2-Methyltetrahydrofuran (1.55 L) was poured in, followed by the addition of NaCl (150 g). The ice bath was removed and the mixture was allowed to warm to room temperature. The pH was readjusted to 9.0 using 3 N NaOH (˜1 mL). The mixture was transferred to a 4-L separatory funnel, using 2-methyltetrahydrofuran (50 mL) for rinsing, and the layers were separated. The aqueous phase was extracted with 2-methyltetrahydrofuran (950 mL). The organic extracts were vacuum-filtered through Celite directly into a 5-L distillation flask, using 2-methyltetrahydrofuran (200 mL) for rinsing. The solution was dried azeotropically and concentrated to a volume of 1.2 L by distillation of 2-methyltetrahydrofuran at one atmosphere. A measured aliquot was concentrated and weighed, which showed that 161 g of (4R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide was present in solution [84% from (4R)-5,5-dimethyl-thiazolidine-3,4-dicarboxylic acid 3-tert-butyl ester]. This solution was then carried on directly into the next step. The concentrated aliquot from above yielded (4R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide as a crystalline solid: mp=45–47° C., 1H NMR (300 MHz, CDCl3) δ 6.73 (br s, 1H), 5.87 (app ddt, J=10.2, 17.1, 5.7 Hz, 1H), 5.17–5.27 (m, 2H), 4.27 (AB q, JAB=9.7 Hz, Δν=22.5 Hz, 2H), 2.94 (app tt, J=1.5, 5.8 Hz, 2H), 3.51 (s, 1H), 1.74 (s, 3H), 1.38 (s, 3H); 13C NMR (75 MHz, DCl3) δ 169.7, 134.4, 116.9, 74.8, 57.2, 51.6, 41.9, 29.1, 27.3; MS (CI) m/z 201.1063 (201.1062 calcd for C9H17N2OS, M+H+); elemental analysis calcd for C9H16N2OS: C, 53.97; H, 8.05; N, 13.99; found: C, 53.93; H, 8.09; N, 14.07.

reactant | Methanesulfonic acid | 2.39 mol, 155 mL | CS(=O)(=O)O | CH4O3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | (4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CSC([C@H]1C(NCC=C)=O)(C)C | C14H24N2O3S
solvent | H2O | 400 mL | O | H2O
product | (4R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide | C(C=C)NC(=O)[C@H]1NCSC1(C)C | C9H16N2OS
